US07544835B2
2-Isopropoxy-3-{3-[({[3-(trifluoromethyl)anilino]carbonyl}-oxy)methyl]phenyl}propanoic acid
Using ethyl 3-[3-(hydroxymethyl)phenyl]-2-isopropoxypropanoate and α,α,α-trifluoro-m-tolylisocyanate, the title compound was obtained in the same manner as described in Example 148.

reactant | ethyl 3-[3-(hydroxymethyl)phenyl]-2-isopropoxypropanoate | OCC=1C=C(C=CC1)CC(C(=O)OCC)OC(C)C | C15H22O4
reactant | α,α,α-trifluoro-m-tolylisocyanate | FC(C1=CC(=CC=C1)N=C=O)(F)F | C8H4F3NO
product | 2-Isopropoxy-3-{3-[({[3-(trifluoromethyl)anilino]carbonyl}-oxy)methyl]phenyl}propanoic acid | C(C)(C)OC(C(=O)O)CC1=CC(=CC=C1)COC(=O)NC1=CC(=CC=C1)C(F)(F)F | C21H22F3NO5
